US07544637B2
2.3: N,N-Dimethyl-2-cyano-3-methoxyphenylsulfonamide
A solution of 1.25 g (5.4 mmol) of 2-cyano-3-methoxyphenylsulfonyl chloride in 30 ml of tetrahydrofuran was added to a solution of 960 mg (12 mmol) of an aqueous solution of methylamine (40% by weight) in 20 ml of tetrahydrofuran at room temperature. The reaction mixture was stirred at room temperature for 30 minutes before water was added. The aqueous phase was acidified to pH=3 using hydrochloric acid (10% strength by weight, aqueous solution). The aqueous phase was then extracted three times with dichloromethane. The combined organic extracts were dried over sodium sulfate and filtered. The filtrate was concentrated in vacuo and the resulting residue was triturated with methyl tert.-butyl ether. Yield: 0.28 g (23% of theory) of the title compound having a melting point of 121-128° C.

reactant | 2-cyano-3-methoxyphenylsulfonyl chloride | 5.4 mmol, 1.25 g | C(#N)C1=C(C=CC=C1OC)S(=O)(=O)Cl | C8H6ClNO3S
reactant | methylamine | CN | CH5N
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N,N-Dimethyl-2-cyano-3-methoxyphenylsulfonamide | CN(S(=O)(=O)C1=C(C(=CC=C1)OC)C#N)C | C10H12N2O3S
